US05985875
Synthesis of 1-benzylidene-2-{4-[4-(4-chlorobenzoyl)benzyl]-3,5-dichlorophenyl}-4-(2,2-dimethoxy)ethyl semicarbazide
In 15 ml of acetonitrile was suspended 1.00 g of 1-benzylidene-2-{4-[4-(4-chlorobenzoyl)benzyl]-3,5-dichlorophenyl}hydrazine, and 0.40 g of 2,2-dimethoxyethyl isocyanate was added, and then 15 ml of DBU(1,8-diazabicyclo[5.4.0]undec-7-ene) was added. The mixture was reacted at 20 to 25° C. for 1 hour, and precipitated crystals were collected by filtration to give the above-identified compound as colorless crystals (yield: 75%).

reactant | 1-benzylidene-2-{4-[4-(4-chlorobenzoyl)benzyl]-3,5-dichlorophenyl}hydrazine | 1.00 g | C(C1=CC=CC=C1)=NNC1=CC(=C(C(=C1)Cl)CC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)=O)Cl | C27H19Cl3N2O
reactant | 2,2-dimethoxyethyl isocyanate | 0.40 g | COC(CN=C=O)OC | C5H9NO3
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 1-benzylidene-2-{4-[4-(4-chlorobenzoyl)benzyl]-3,5-dichlorophenyl}-4-(2,2-dimethoxy)ethyl semicarbazide | yield: 75% | C(C1=CC=CC=C1)=NN(C(=O)NCC(OC)OC)C1=CC(=C(C(=C1)Cl)CC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)=O)Cl | C32H28Cl3N3O4
